US05589478
To a solution of 4-tert-butyl-N-[6-{2-(5-formylpyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide (143 mg) in tetrahydrofuran-isopropanol (4 ml-4 ml) is added sodium borohydride (13 mg) under ice-cooling, and the mixture is reacted for two hours. The mixture is treated with aqueous ammonium chloride solution, and extracted with ethyl acetate. The ethyl acetate layer is washed, dried, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol=200:1~50:1), and crystallized from diethyl ether to give 4-tert-butyl-N-[6-{2-(5-hydroxymethylpyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide (96 mg).

reactant | 4-tert-butyl-N-[6-{2-(5-formylpyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide | 143 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)C=O | C28H29N5O5S
reactant | sodium borohydride | 13 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran isopropanol | 4 ml-4 ml | O1CCCC1.C(C)(C)O
product | 4-tert-butyl-N-[6-{2-(5-hydroxymethylpyrimidin-2-yloxy)ethoxy}-5-(4-methylphenyl)pyrimidin-4-yl]benzenesulfonamide | 96 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCOC1=NC=C(C=N1)CO | C28H31N5O5S
